US04607128
174 g of allyl alcohol was added to a mixture of 298 g of 85% flake potassium hydroxide and 750 ml of sulpholane under nitrogen, and the mixture was heated to 125°-135° C. 272 g of 4-chlorobenzotrifluoride was added over 20 minutes at this temperature. After 2 hours, the reaction mixture was cooled to 30° C., and distillation from the solvent gave 207 g of propenyl 4-trifluoromethylphenyl ether b.p.: 84°-88° C. at 15 Torr.

reactant | allyl alcohol | 174 g | C(C=C)O | C3H6O
reactant | potassium hydroxide | 298 g | [OH-].[K+]
reactant | 4-chlorobenzotrifluoride | 272 g | ClC1=CC=C(C=C1)C(F)(F)F | C7H4ClF3
solvent | sulpholane | 750 ml | S1(=O)(=O)CCCC1 | C4H8O2S
product | propenyl 4-trifluoromethylphenyl ether | 207 g | FC(C1=CC=C(C=C1)OC=CC)(F)F | C10H9F3O
